US06555557B1
Preparation of 3-(3,5-dimethoxypyridin-4-yl)propenoic acid ethyl ester
3,5-Dimethoxypyridine (8.1 g, 58 mmol) is dissolved in THF (100 ml), and thereto is added a solution of n-butyl lithium in hexane (45.3 ml, 70 mmol) at −20° C., and the mixture is warmed to 0° C. The mixture is stirred for 30 minutes, and cooled to −78° C. To the mixture is added DMF (5.4 ml, 70 mmol), and the mixture is warmed to 0° C. over a period of time for 30 minutes. Then, to the reaction solution is added a solution of a salt which is prepared from triethylphosphonoacetate (15.6 g, 69 mmol) and sodium hydride (60% in mineral oil, 2.78 g, 69 mmol) in THF (50 ml) at 0° C., and the mixture is stirred for one hour. The reaction solution is poured into ice-water, extracted with ethyl acetate (200 ml×2), washed with a saturated brine (100 ml×2), dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (eluent: chloroform/methanol), and further recrystallized from isopropyl ether/hexane to give the title compound (7.3 g) as colorless crystals, m.p. 100-101° C.

reactant | 3,5-Dimethoxypyridine | 58 mmol, 8.1 g | COC=1C=NC=C(C1)OC | C7H9NO2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 70 mmol, 45.3 ml | CCCCCC | C6H14
reactant | DMF | 70 mmol, 5.4 ml | CN(C)C=O | C3H7NO
reactant | sodium hydride | 69 mmol, 2.78 g | [H-].[Na+]
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-(3,5-dimethoxypyridin-4-yl)propenoic acid ethyl ester | 7.3 g | C(C)OC(C=CC1=C(C=NC=C1OC)OC)=O | C12H15NO4
